US09120822B2
Sodium hydride (70 mg, 1.73 mmol, 2.0 eq) is added at −30° C. to a stirred solution of 3-chloro-6-methoxy-[1,5]naphthyridine-4-carbonitrile (190 mg, 0.87 mmol, 1.0 eq) and benzyl alcohol (187 mg, 1.73 mmol, 2.0 eq) in tetrahydrofuran (12 mL). After 2 hours stirring at −30° C., the reaction mixture is concentrated and extracted with ethyl acetate (3×20 mL) and water (20 mL). The combined organic layers are dried over sodium sulfate, filtered and concentrated to give a residue that is purified by column chromatography (silica gel, eluent: petroleum ether:ethyl acetate, 5:1, v/v) to afford 3-benzyloxy-6-methoxy-[1,5]naphthyridine-4-carbonitrile as a light yellow solid (160 mg, 64% yield).

reactant | Sodium hydride | 1.73 mmol, 70 mg, 2.0 eq | [H-].[Na+]
reactant | 3-chloro-6-methoxy-[1,5]naphthyridine-4-carbonitrile | 0.87 mmol, 190 mg, 1.0 eq | ClC=1C=NC2=CC=C(N=C2C1C#N)OC | C10H6ClN3O
reactant | benzyl alcohol | 1.73 mmol, 187 mg, 2.0 eq | C(C1=CC=CC=C1)O | C7H8O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | 3-benzyloxy-6-methoxy-[1,5]naphthyridine-4-carbonitrile | 160 mg, 64% yield | C(C1=CC=CC=C1)OC=1C=NC2=CC=C(N=C2C1C#N)OC | C17H13N3O2
